US09303045B2
Step 1: Methyl 1-(2,2-difluoroethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate
2-Bromo-1,1-difluoroethane (677 μl, 8.51 mmol) was added to a suspension of methyl 1H-pyrrolo[2,3-b]pyridine-3-carboxylate (500 mg, 2.84 mmol) and K2CO3 (1177 mg, 8.51 mmol) in DMF (2838 μl) at RT. The mixture was heated at 70° C. for 14 h and purified by column chromatography (SiO2; DCM/MeOH) to afford the title compound as a white solid.

reactant | 2-Bromo-1,1-difluoroethane | 8.51 mmol, 677 μl | BrCC(F)F | C2H3BrF2
reactant | methyl 1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 2.84 mmol, 500 mg | N1C=C(C=2C1=NC=CC2)C(=O)OC | C9H8N2O2
reactant | K2CO3 | 8.51 mmol, 1177 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2838 μl | CN(C)C=O | C3H7NO
product | Methyl 1-(2,2-difluoroethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | FC(CN1C=C(C=2C1=NC=CC2)C(=O)OC)F | C11H10F2N2O2
